Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ abdominal pain for 3 months
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with h/o colon cancer s/p resection in ___, umbilical 
hernia repair ___, DM2, HTN presents with periumbilical abd 
pain and L flank pain. She reports the periumbilical pain has 
been present since ___ - it comes and goes, is stabbing, 
___ at its worst, exacerbated with bending foward, better 
with lying down, is present almost daily. The L flank pain is 
new for about 1 month - can be up to ___ at its worst, comes 
and goes, improves with lying on her left side. She hasn't tried 
any medications for the pain. The pain in these areas isn't any 
worse today but she decided to come to the ER to have the pain 
checked out - she is anxious about what the cause may be.  
 
In the ED, initial VS 97.8 85 110/65 14 100% on RA. Labs showed 
lipase of 356, RUQ U/S showed: 1 cm echogenic structure with 
posterior shadowing adjacent to the gallbladder fossa and given 
her history of cancer and her elevated lipase, the ER admitted 
the patient for further w/u.  
Currently, VS 98.4 141/59 68 18 100% on RA. The patient reports 
her periumbilical pain is resolved and her flank pain is ___. 
She denies N/V/D/C, no blood in stool, has lost 10 lbs in the 
past year due to diet changes. Pain is not exacerbated with 
eating. She denies heartburn.  

 
Past Medical History:
Diabetes, hypertension
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Admission:
 
Vitals: 98.4 141/59 68 18 100% on RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, obese, TTP around umbilicus and L flank - no CVA 
tenderness, non-distended, bowel sounds present, no rebound 
tenderness or guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: EOMI, full strength in all extremities  

Discharge:
  
Vitals: 98.4 141/59 68 18 100% on RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, obese, TTP around umbilicus and L flank - no CVA 
tenderness, non-distended, bowel sounds present, no rebound 
tenderness or guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: EOMI, full strength in all extremities  
 

 
Pertinent Results:
___ 05:26PM BLOOD WBC-4.6 RBC-3.82* Hgb-11.2* Hct-35.9* 
MCV-94 MCH-29.3 MCHC-31.2 RDW-13.3 Plt ___
___ 05:26PM BLOOD Glucose-209* UreaN-12 Creat-0.7 Na-143 
K-4.4 Cl-102 HCO3-25 AnGap-20
___ 05:26PM BLOOD ALT-19 AST-20 AlkPhos-50 TotBili-0.3
___ 05:26PM BLOOD Lipase-356*
___ 05:26PM BLOOD Albumin-4.6 Calcium-9.2 Phos-3.3 Mg-1.6

Imaging:
RUQ US 
IMPRESSION:  
  
1. Echogenic liver consistent with fatty infiltration. Other 
forms of liver disease and more advanced liver disease including 
significant hepatic fibrosis/cirrhosis cannot be excluded on 
this study.  
  
2. A 1 cm echogenic structure with posterior shadowing adjacent 
to the 
gallbladder fossa is identified. Given the history of 
malignancy, MR is 
recommended for further evaluation.  

 
Brief Hospital Course:
# Periumbilical pain: Etiology of abdominal pain is uncertain at 
the time of discharge. It is most likely secondary to ventral 
hernia repair as she began experiencing pain several months 
following procedure. It has been chronic, ___ pain which is 
unchanged with eating further supporting diagnosis. She was 
found to have an elevated lipase over 300 this admission. She 
has no clinical findings or history supportive of either acute 
or chronic pancreatitis. LFTs normal lowering suspicion for 
biliary process. Peptic ulcer disease is possible, but also less 
likely with no change in symptoms with eating, no previous acid 
reflux, and no hx of prolonged NSAID use. A RUQ ultrasound 
raised concern for an cystic structure in region of gallbladder 
but it unclear if this is new (liver cyst prev seen on CT) or if 
it is contributing to current presentation. Given this finding 
and elevated lipase, recommend further imaging (MRI vs CT 
dedicated pancreatic study) as an outpt. 
 
# HTN: Stable this admission. Continued home lisinopril.  

# Diabetes Mellitus Type II: she was kept on insulin during 
hospitalization and metformin and glyburide were restarted at 
time of discharge.

Transitions of Care:
#Pt will follow up with surgery for further evaluation of hernia
#Pt should have further pancreatic imaging in setting of 
elevated lipase 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Fexofenadine 60 mg PO DAILY 
3. Gabapentin 600 mg PO BID 
4. Lisinopril 40 mg PO DAILY 
5. coenzyme Q10 *NF* 300 mg Oral qday 
6. GlyBURIDE 5 mg PO BID 
7. MetFORMIN (Glucophage) 1000 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Abdominal pain, most likely secondary to prior surgeries
Elevated lipase

Secondary Diagnosis:
Hypertension
Diabetes Mellitus Type II
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of at ___ 
___. You came in with abdominal pain that you have 
been experiencing for the last several months. We think this is 
most likely related to your previous surgeries. However, your 
lipase (an enzyme made by the pancreas) was also elevated and 
should be followed up as an outpatient by your PCP.
 
Followup Instructions:
___